US07759349B2
3-Methoxy-8-propoxy-5,6-dihydro-6b,7,11-triaza-benzo[a]fluorene (Compound 121)
A stirred mixture of 6-propoxypyridazin-3-amine (120 mg, 0.78 mmol), 2-bromo-6-methoxy-3,4-dihydronaphthalen-1 (2H)-one (200 mg, 0.78 mmol) in ethanol was heated under reflux for 0.5 hours. The mixture was cooled and sodium bicarbonate (66 mg, 0.78 mmol) added. The mixture was stirred at room temperature for 3 days and evaporated. The residue was extracted with chloroform and the extract washed with saturated, aqueous, sodium chloride solution, dried (MgSO4) and evaporated. The residue was purified by flash chromatography on silica gel. Elution with 1-2% methanol in dichloromethane afforded Compound 121 (30 mg) as a white solid. 1H n.m.r. (CDCl3) δ 1.05, t, J=7.4 Hz, 3H; 1.74-1.94, m, 2H; 3.14, s, 4H; 3.82, s, 3H; 4.28, t, J=6.8 Hz, 2H; 6.60, d, J=9.9 Hz, 1H; 6.78-6.89, m, 2H; 7.77, d, J=9.6 Hz, 1H; 7.87, d, J=7.9 Hz, 1H.

reactant | 6-propoxypyridazin-3-amine | 0.78 mmol, 120 mg | C(CC)OC1=CC=C(N=N1)N | C7H11N3O
reactant | 2-bromo-6-methoxy-3,4-dihydronaphthalen-1 (2H)-one | 0.78 mmol, 200 mg | BrC1C(C2=CC=C(C=C2CC1)OC)=O | C11H11BrO2
reactant | sodium bicarbonate | 0.78 mmol, 66 mg | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-Methoxy-8-propoxy-5,6-dihydro-6b,7,11-triaza-benzo[a]fluorene | COC1=CC2=C(C=3N=C4C=CC(=NN4C3CC2)OCCC)C=C1 | C18H19N3O2
